US08461107B2
Step 1: 4-Bromo-2-[(ethoxycarbonyl)amino]benzoic acid
Ethyl chloroformate (5.00 ml, 52.1 mmol) was added to a solution of 2-amino-4-bromobenzoic acid (3.75 g, 17.36 mmol) in THF (70 ml) at room temperature. The mixture was heated to 70° C. and let stir for 24 hrs. The reaction was concentrated to give an oily solid. The resulting solid was diluted with toluene (50 mL), concentrated and then triturated with 5% ether/hexanes (100 mL) to give upon filtration and subsequent washing of the solid with hexane the title compound (4.6 gm, 92%) as a solid. LCMS (ES+) m/z 287.88 (M+H)+.

reactant | Ethyl chloroformate | 52.1 mmol, 5.00 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-amino-4-bromobenzoic acid | 17.36 mmol, 3.75 g | NC1=C(C(=O)O)C=CC(=C1)Br | C7H6BrNO2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-2-[(ethoxycarbonyl)amino]benzoic acid | BrC1=CC(=C(C(=O)O)C=C1)NC(=O)OCC | C10H10BrNO4
